US06511995B1
Synthesis of 2-[4-(2-methyl-1,3-dioxolane-2-yl)phenoxy]-5-nitropyridine
380 mg of 1-{4-[(5-nitro-2-pyridinyl)oxy]phenyl}-1-ethanone was dissolved in 5 ml of benzene and, after adding 98 μl of ethylene glycol and 3 mg of (±)-10-camphorsulfonic acid, the mixture was heated at reflux. After 3 hours, the reaction solution was extracted with ethyl acetate. The organic layer was washed in turn with a saturated sodium hydrogencarbonate solution and a saturated sodium chloride solution, dried over magnesium sulfate and then concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (eluent: ethyl acetate/n-hexane (1:4)) to obtain the titled compound (280 mg).

reactant | 1-{4-[(5-nitro-2-pyridinyl)oxy]phenyl}-1-ethanone | 380 mg | [N+](=O)([O-])C=1C=CC(=NC1)OC1=CC=C(C=C1)C(C)=O | C13H10N2O4
reactant | ethylene glycol | 98 μl | C(CO)O | C2H6O2
reactant | (±)-10-camphorsulfonic acid | 3 mg | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
product | 2-[4-(2-methyl-1,3-dioxolane-2-yl)phenoxy]-5-nitropyridine | 280 mg | CC1(OCCO1)C1=CC=C(OC2=NC=C(C=C2)[N+](=O)[O-])C=C1 | C15H14N2O5
